US04430265
In 20 ml of acetonitrile were dissolved methacrylic acid (1.72 g, 20 m mols) and N-hydroxysuccinimide (2.19 g, 19 m mols), and under ice-cooling, N,N'-dicyclohexylcarbodiimide (4.33 g, 21 m mols) was added. The reaction was conducted in the dark, at 0° C. for one hour and at room temperature for 3 hours. The precipitate was separated by filtration and the filtrate was distilled under reduced pressure. To the residue was added petroleum ether and, after cooling, the crystals were collected by filtration. By the above procedure there was obtained 2.5 g of methacrylic acid N-hydroxysuccinimide ester as crystals melting at 100°-102° C.

reactant | methacrylic acid | 1.72 g | C(C(=C)C)(=O)O | C4H6O2
reactant | N-hydroxysuccinimide | 2.19 g | ON1C(CCC1=O)=O | C4H5NO3
reactant | N,N'-dicyclohexylcarbodiimide | 4.33 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | acetonitrile | 20 ml | C(C)#N | C2H3N
product | methacrylic acid N-hydroxysuccinimide ester | 2.5 g | CC(=C)C(=O)ON1C(=O)CCC1=O | C8H9NO4
